data/mechanism_extracts/BJOC/10.3762_bjoc.11.21.json
{"doi": "10.3762_bjoc.11.21", "journal": "BJOC", "is_review": false, "rxn_class_summary": "Electrochemical cathodic reductive hydrodimerization of methyl cinnamate (and related phenylacrylates) on a boron-doped diamond (BDD) electrode to give neolignan-type C-C coupled dimers.", "mechanism_family": ["radical_cathodic", "direct_SET"], "electrochemical_role": "Cathodic one-electron reduction of the methyl cinnamate (phenylacrylate) C=C to a benzylic/stabilized radical anion (after protonation, a benzylic radical), which dimerizes to the hydrodimer.", "key_intermediates": [{"name": "radical anion / benzylic radical of methyl cinnamate after 1e- reduction and protonation", "smiles": null, "role": "reactive"}, {"name": "C-C coupled hydrodimer (±)-2 (racemate/meso mixture)", "smiles": null, "role": "reactive"}], "electron_flow": "The BDD cathode delivers one electron to methyl cinnamate (1a) generating a radical anion that is protonated to a benzylic radical at the β-carbon; two such radicals couple to give the hydrodimer 2, while undesired hydrolysis to 1b is suppressed by using a phosphate-buffered catholyte.", "rate_determining_step": null, "probe_reagents": [{"name": "electrode material variation (GC, Pt, Mg vs BDD)", "smiles": null, "purpose": "other", "observation": "Pt and Mg cathodes gave only H2 evolution and recovery of 1a; GC gave dimer 2 (34%, dr 74:26) plus cyclic product E-3 (25%) and 41% 1a; BDD selectively produced hydrodimer 2 in 85% yield."}, {"name": "phosphate buffer (catholyte)", "smiles": null, "purpose": "other", "observation": "Suppresses hydrolysis of ester 1a to 1b and improves selectivity for dimer 2."}], "evidence_types_used": ["isolation_of_intermediate", "other"], "evidence_strength": "weak", "notes": "On other cathodes (Hg, Cu, Pb, Zn, Sn, Ag) the major products from cinnamate reductions are reported to be cyclic Dieckmann-type products (type 3), whereas BDD uniquely favors the open-chain hydrodimer 2. The proposed mechanism (Figure 1, right) is drawn but not interrogated with radical traps, KIE, CV, or DFT in this paper."}
